US08604050B2
To a solution of 1.7 g (5.90 mmol) of ethyl 2-azido-3-(3-trimethylsilylphenyl)propenoate prepared according to the procedure described in the preceding step, in 25 mL of dry toluene, maintained under an inert atmosphere, is added 0.62 g (0.59 mmol) of dirhodium (II) heptafluorobutyrate dimer complex. The reaction mixture is stirred for 7 hours at 40° C. A second portion of 0.62 g (0.59 mmol) of dirhodium (II) heptafluorobutyrate dimer complex is added to the reaction mixture while maintaining the stirring and heating at 40° C. for a further 1 hour. After cooling to room temperature, the reaction mixture is filtered through silica gel, eluting with toluene. The filtrate is then concentrated under reduced pressure. The greenish solid obtained is triturated several times in a minimum amount of heptane, until a white powder is obtained. This powder is dried under reduced pressure to give 0.87 g of the expected ethyl 5-trimethylsilyl-1H-indole-2-carboxylate in the form of a white powder.

reactant | ethyl 2-azido-3-(3-trimethylsilylphenyl)propenoate | 5.90 mmol, 1.7 g | N(=[N+]=[N-])C(C(=O)OCC)=CC1=CC(=CC=C1)[Si](C)(C)C | C14H19N3O2Si
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | dirhodium (II) heptafluorobutyrate | 0.59 mmol, 0.62 g | FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.[Rh+2].[Rh+2].FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F
catalyst | dirhodium (II) heptafluorobutyrate | 0.59 mmol, 0.62 g | FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.[Rh+2].[Rh+2].FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F.FC(C(C(C(=O)[O-])(F)F)(F)F)(F)F
product | ethyl 5-trimethylsilyl-1H-indole-2-carboxylate | 0.87 g | C[Si](C=1C=C2C=C(NC2=CC1)C(=O)OCC)(C)C | C14H19NO2Si
